US04954509
1-dimethylaminomethyl-2-(3,4-dichlorophenyl) acetyl-5-methoxy-1,2,3,4-tetrahydroisoquinoline.
Prepared as Ex. No. 1, from 1.2 g (5.45 mmoles) of 1-dimethylaminomethyl-5-methoxy-1,2,3,4-tetrahydroisoquinoline, 1.3 g (6.37 mmoles) of 3,4-dichlorophenylacetic acid and 2.4 g (11.70 mmoles) of dicyclohexylcarbodiimide in 50 ml of dry methylene chloride.

reactant | 1-dimethylaminomethyl-5-methoxy-1,2,3,4-tetrahydroisoquinoline | 5.45 mmoles, 1.2 g | CN(C)CC1NCCC2=C(C=CC=C12)OC | C13H20N2O
reactant | 3,4-dichlorophenylacetic acid | 6.37 mmoles, 1.3 g | ClC=1C=C(C=CC1Cl)CC(=O)O | C8H6Cl2O2
reactant | dicyclohexylcarbodiimide | 11.70 mmoles, 2.4 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 1-dimethylaminomethyl-2-(3,4-dichlorophenyl) acetyl-5-methoxy-1,2,3,4-tetrahydroisoquinoline | CN(C)CC1(NCCC2=C(C=CC=C12)OC)C(CC1=CC(=C(C=C1)Cl)Cl)=O | C21H24Cl2N2O2
